US07678818B2
c) Preparation of (4-pentafluoroethyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine
Borane-tetrahydrofuran complex solution (1 M in THF, 2.43 mL, 2.43 mmol) was added at 0° C. to a solution of N-(4-pentafluoroethyl-benzyl)-2-(3-trifluoromethyl-phenyl)-acetamide (200 mg, 0.486 mmol) in THF (3.2 mL), and the homogeneous solution was heated at reflux over 90 min. After cooling, excess reagent was destroyed by careful addition of methanol at 0° C. Volatile material was removed by distillation, then the residue was dissolved in 5% ethanolic sulfuric acid solution (2 mL). The solution was refluxed for 2 h, then partitioned between 2 M aq. sodium hydroxide solution and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (161 mg, 83%). Colourless oil, MS (ISP) 398.2 (M+H)+.

reactant | N-(4-pentafluoroethyl-benzyl)-2-(3-trifluoromethyl-phenyl)-acetamide | 0.486 mmol, 200 mg | FC(C(F)(F)F)(C1=CC=C(CNC(CC2=CC(=CC=C2)C(F)(F)F)=O)C=C1)F | C18H13F8NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
product | (4-pentafluoroethyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | 161 mg, 83% | FC(C(F)(F)F)(C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1)F | C18H15F8N
